US04268693
18.8 g of 3-(2,4-dichlorophenoxy)-anisole are added to a suspension of 37 g of anhydrous aluminium chloride in 80 ml of chlorobenzene and the mixture is stirred for 1 day at 60° C. The still hot solution is poured onto ice. The resulting mixture is extracted with toluene and the toluene solution is extracted with 2 N sodium hydroxide solution. The product is precipitated by acidifying the sodium hydroxide solution with dilute hydrochloric acid and extracted with toluene. The toluene solution is concentrated and the residue distilled in vacuo, affording 16 g of 3-(2,4-dichlorophenoxy)-phenol in the form of a colourless oil with a boiling point of 140°-145° C./0.05 torr. Using the corresponding chlorophenols as starting materials, it is possible to obtain the starting materials required for the production of the compounds of the formulae (302) to (304):

reactant | 3-(2,4-dichlorophenoxy)-anisole | 18.8 g | ClC1=C(OC=2C=C(C=CC2)OC)C=CC(=C1)Cl | C13H10Cl2O2
reactant | aluminium chloride | 37 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(2,4-dichlorophenoxy)-phenol | 16 g | ClC1=C(OC=2C=C(C=CC2)O)C=CC(=C1)Cl | C12H8Cl2O2
